US07723439B2
After confirming disappearance of C6F13CH═CH2 by gas chromatography, the reaction was terminated by cooling to obtain a reaction liquid. From the obtained reaction liquid, majority of methanol was distilled off under reduced pressure, and then, the reaction liquid was washed with water to remove the remaining methanol thereby to obtain 430 g of C6F13CH2CH2CH2OH having a purity of 92.8%.

reactant | C6F13CH═CH2 | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)C=C | C8H3F13
reactant | methanol | CO | CH4O
product | C6F13CH2CH2CH2OH | 430 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)CCCO | C9H7F13O
